US08067445B2
Step 5: [2′-[(Benzyloxycarbonyl-ethyl-amino)-methyl]-4′-(1-hydroxy-1-methyl-ethyl)-6-methoxy-biphenyl-3-yl]-acetic acid ethyl ester
Prepared according to the procedure described in Example 1, Step 4, using the following starting materials: [2-bromo-5-(1-hydroxy-1-methyl-ethyl)-benzyl]-ethyl-carbamic acid benzyl ester and [4-methoxy-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-acetic acid ethyl ester.

reactant | [2-bromo-5-(1-hydroxy-1-methyl-ethyl)-benzyl]-ethyl-carbamic acid benzyl ester | C(C1=CC=CC=C1)OC(N(CC)CC1=C(C=CC(=C1)C(C)(C)O)Br)=O | C20H24BrNO3
reactant | [4-methoxy-3-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-phenyl]-acetic acid ethyl ester | C(C)OC(CC1=CC(=C(C=C1)OC)B1OC(C(O1)(C)C)(C)C)=O | C17H25BO5
product | [2′-[(Benzyloxycarbonyl-ethyl-amino)-methyl]-4′-(1-hydroxy-1-methyl-ethyl)-6-methoxy-biphenyl-3-yl]-acetic acid ethyl ester | C(C)OC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(C)(C)O)CN(CC)C(=O)OCC1=CC=CC=C1)=O | C31H37NO6
